### PR TITLE
RationalApprox: prove κ-bounds (Lemmas 44/49, Corollaries 50/51) and factor MatrixBounds helpers

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

**API changes:**
- `bounds_kappa4` ([SY25] Corollary 51) gains a new hypothesis `hA_nonneg` (numerator nonnegativity required for fraction monotonicity)
- `UpperSqrt.bound` / `LowerSqrt.bound` fields generalized from `∀ (x : ℚ), 0 ≤ x → ...` to `∀ (x : ℝ), 0 ≤ x → ...`, since `‖v‖²` is real-valued
- `delta_kappa` no longer takes `Papprox` (the rational term uses exact P, not P_)
- `bounds_kappa3_X` no longer takes `hQ` / `Qapprox` (unused in the proof)

**New proofs:**
- Prove all 7 BoundsKappa lemmas ([SY25] Lemma 44): 3κ bounds for M/Mθ/Mφ and 4κ bounds for RM/R'M/RMθ/RMφ
- Prove `bounds_kappa3_X` (3κ), `bounds_kappa3_M` (5κ), `bounds_kappa3_MQ` (3κ) ([SY25] Lemma 49)
- Prove `delta_kappa` (6κ) ([SY25] Corollary 50)
- Prove `bounds_kappa4` ([SY25] Corollary 51)

**Global.lean:** Minor proof rewrites for `partials_helper3` / `partials_helper4` (use `nth_partial_div_const` and `nth_partial_rotproj_outer_*` helpers instead of inlining fderiv reasoning)

**Infrastructure (MatrixBounds.lean):**
- Shared operator norm bounds: `Mθℚ_norm_bounded`, `Mφℚ_norm_bounded`, `R'ℚ_norm_bounded`
- `icc_int_to_real`: convenience coercion from `Set.Icc (-4) 4` to `Set.Icc (-4 : ℝ) 4`
- `clm_approx_apply_sub`: core ‖A P − Aℚ P_‖ ≤ 2κ + κ² bound for ‖P‖ ≤ 1, ‖P − P_‖ ≤ κ
- `clm_approx_apply_sub₂`: variant for ‖P‖ ≤ 2, ‖P − P_‖ ≤ 2κ (gives ≤ 4κ + 2κ²)
- `clm_unit_apply_le`: operator with ‖A‖ ≤ 1 preserves the unit ball
- `approx_image_norm_le`: ‖Aℚ P_‖ ≤ (1+κ)² from norm bounds on Aℚ, P, and P−P_

**Files changed:** `Global.lean`, `RationalApprox/Basic.lean`, `RationalApprox/MatrixBounds.lean`, `RationalApprox/BoundsKappa.lean`, `RationalApprox/BoundsKappa3.lean`, `RationalApprox/BoundsKappa4.lean`, `RationalApprox/DeltaKappa.lean`

## Notes

- `bounds_kappa4` requires `hA_nonneg : 0 ≤ ⟪rotM θ φ P, rotM θ φ (P - Q)⟫ - 2 * ε * ‖P - Q‖ * (√2 + ε)` as a new assumption. This is discharged at downstream call sites where the rational computation verifies a positive lower bound.
- `delta_kappa` uses `rotMℚ θ φ P` (exact P, not the approximation P_) in the rational term, matching [SY25] Corollary 50.

## Test plan

- [x] `lake build` passes
- [x] No sorry warnings in touched files
- [x] Remaining sorry warnings are in unrelated files only: `RationalGlobal`, `RationalLocal`, `SolutionTable`, `Local.Congruent`, `ComputationalStep`

### CODE REVIEW

File: Noperthedron/Global.lean [hunk 1]
```diff
@@ -60,16 +60,10 @@ theorem hull_scalar_prod {n : ℕ} (V : Finset (E n)) (Vne : V.Nonempty)
 
 -- rotproj_inner, rotproj_inner_unit, rotproj_outer_unit, rotation_partials_exist,
 -- rotation_partials_exist_outer are now imported from Noperthedron.Global.Definitions
--- (via Noperthedron.Global.RotationPartials.Rotproj)
+-- (via Noperthedron.Global.RotationPartials)
 
-/- [SY25] Lemma 19 -/
-theorem rotation_partials_bounded (S : ℝ³) {w : ℝ²} (w_unit : ‖w‖ = 1) :
```
Comment (dwrensha) [inline Noperthedron/Global.lean]: Before I looked at this PR, I pushed the same change: https://github.com/jcreedcmu/Noperthedron/commit/8f928c83b2145236cc6d275cc09e9cc7419505a6

File: Noperthedron/Global.lean [hunk 2]
```diff
@@ -288,17 +282,51 @@ lemma partials_helper2 {pbar : Pose} {ε : ℝ} {poly : GoodPoly}
...
+  congr 1
+  rw [(HasFDerivAt.rotM_outer pbar P).fderiv]
+  ext i; simp [rotM'_apply, EuclideanSpace.single_apply]
+
 lemma partials_helper3 {pbar : Pose} {ε : ℝ} {poly : GoodPoly}
     (pc : GlobalTheoremPrecondition poly pbar ε) (P : ℝ³) :
     ‖P‖ * nth_partial 0 (GlobalTheoremPrecondition.fu_outer P pc) pbar.outerParams =
     ⟪pbar.rotM₂θ P, pc.w⟫ := by
-  sorry
+  by_cases hP : ‖P‖ = 0
```
Comment (dwrensha) [inline Noperthedron/Global.lean:307]: Before I looked at this PR, I pushed a similar change: https://github.com/jcreedcmu/Noperthedron/commit/8ffb0a676d74787935065dd80c9ea2475f2a1a98

File: Noperthedron/Global.lean (hunk 1 above)
Comment (cameronfreer) [reply Noperthedron/Global.lean]: Thanks, I'll rebase on the latest `main`

File: Noperthedron/Global.lean (hunk 2 above)
Comment (cameronfreer) [reply Noperthedron/Global.lean:307]: Thanks, I'll rebase on the latest `main`

**Comment by cameronfreer** [comment]
@dwrensha I've rebased on top of your commits on `main`, and revised the PR description.

See also #26 with changes to the blueprint -- I haven't yet rebased this on your changes, and maybe this isn't quite the right format; please feel free to revise or request changes there.

**Comment by jcreedcmu** [comment]
As a suggestion, it would be great in the future if the blueprint changes and the formal changes go together in the same PR, but it's no blocker to landing, I think. This LGTM though.
